US07902356B2
1-(1-Methyl-6-nitro-1H-indol-3-yl)-2-pyrrolidin-1-yl-ethane-1,2-dione
Add NaH (0.83 g, 20.8 mmol) to a solution of 1-(6-nitro-1H-indol-3-yl)-2-pyrrolidin-1-yl-ethane-1,2-dione (5.0 g, 17.42 mmol) in THF (60 mL). Stir at room temperature for 10 min, add iodomethane (1.18 mL, 19.2 mmol), and continue stirring for 18 h. Dilute with water and extract with EtOAc (2×). Filter the solid that formed between the layers during the extraction. Dry organic portion, concentrate, and combine the solids. Triturate the solid with ether, filter, and dry to obtain the title compound (5.20 g, 99%). 1H NMR (400 MHz, DMSO-d6): δ 8.59 (m, 2H), 8.30 (d, 1H, J=8.8 Hz), 8.17 (dd, 1H, J=8.8, 2.2 Hz), 4.01 (s, 3H), 3.48 (t, 2H, J=6.8 Hz), 3.41 (t, 2H, J=6.4 Hz), 1.85 (m, 4H).

reactant | NaH | 20.8 mmol, 0.83 g | [H-].[Na+]
reactant | 1-(6-nitro-1H-indol-3-yl)-2-pyrrolidin-1-yl-ethane-1,2-dione | 17.42 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C(C(=O)N1CCCC1)=O | C14H13N3O4
reactant | iodomethane | 19.2 mmol, 1.18 mL | IC | CH3I
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(1-Methyl-6-nitro-1H-indol-3-yl)-2-pyrrolidin-1-yl-ethane-1,2-dione | 5.20 g, 99% | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C(C(=O)N1CCCC1)=O | C15H15N3O4
